US06982348B2
To a solution of (4RS,5SR)-5-(4-fluorophenyl)-4-((3-(2,2,2-trifluoroethoxy)phenyl)methyl)-1,3-oxazolidin-2-one (1.2 g, 3.25 mmol) in ethanol (10 ml) was added 8N aqueous sodium hydroxide solution (2.0 ml, 16 mmol) and the mixture was heated under reflux for 2 hrs. The reaction solution was concentrated, diluted with water (100 ml) and extracted with ethyl acetate (100 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to give (1RS,2SR)-2-amino-1-(4-fluorophenyl)-3-(3-(2,2,2-trifluoroethoxy)phenyl)-1-propanol (913 mg, 82%).

reactant | (4RS,5SR)-5-(4-fluorophenyl)-4-((3-(2,2,2-trifluoroethoxy)phenyl)methyl)-1,3-oxazolidin-2-one | 3.25 mmol, 1.2 g | FC1=CC=C(C=C1)C1C(NC(O1)=O)CC1=CC(=CC=C1)OCC(F)(F)F | C18H15F4NO3
reactant | sodium hydroxide | 16 mmol, 8N, 2.0 ml | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | (1RS,2SR)-2-amino-1-(4-fluorophenyl)-3-(3-(2,2,2-trifluoroethoxy)phenyl)-1-propanol | 913 mg, 82% | NC(C(O)C1=CC=C(C=C1)F)CC1=CC(=CC=C1)OCC(F)(F)F | C17H17F4NO2
